US09169254B2
A mixture of 2-bromo-5-iodotoluene (500 mg, 1.68 mmol), (R)-4-hydroxy-pyrrolidinone (204 mg, 2.02 mmol), 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene (58.5 mg, 0.101 mmol), tris(dibenzylideneacetone)-dipalladium(0)-chloroform adduct (35.0 mg, 0.034 mmol) and cesium carbonate (769 mg, 2.36 mmol) in 1,4-dioxane (degassed, 5 ml) was stirred at 110° C. overnight in a nitrogen stream. The reaction mixture was treated with H2O and extracted with AcOEt (×2). The organic layers were combined and sequentially washed with H2O and saturated brine, and then dried over Na2SO4 and concentrated under reduced pressure. The resulting residue was purified by silica gel chromatography (n-hexane/AcOEt) to give (R)-1-(4-bromo-3-methyl-phenyl)-4-hydroxy-pyrrolidin-2-one as a pale brown solid (173 mg, 38%).

reactant | 2-bromo-5-iodotoluene | 1.68 mmol, 500 mg | BrC1=C(C=C(C=C1)I)C | C7H6BrI
reactant | (R)-4-hydroxy-pyrrolidinone | 2.02 mmol, 204 mg | O[C@@H]1CC(NC1)=O | C4H7NO2
reactant | 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene | 0.101 mmol, 58.5 mg | C1(=CC=CC=C1)P(C1=CC=CC=2C(C3=CC=CC(=C3OC12)P(C1=CC=CC=C1)C1=CC=CC=C1)(C)C)C1=CC=CC=C1 | C39H32OP2
reactant | cesium carbonate | 2.36 mmol, 769 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | 1,4-dioxane | 5 ml | O1CCOCC1 | C4H8O2
catalyst | tris(dibenzylideneacetone)-dipalladium(0)-chloroform adduct | 0.034 mmol, 35.0 mg | C1=CC=C(C=C1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C1=CC=C(C=C1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C1=CC=C(C=C1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C(Cl)(Cl)Cl.[Pd].[Pd]
solvent | H2O | O | H2O
product | (R)-1-(4-bromo-3-methyl-phenyl)-4-hydroxy-pyrrolidin-2-one | 173 mg, 38% | BrC1=C(C=C(C=C1)N1C(C[C@H](C1)O)=O)C | C11H12BrNO2
